US04186199
A stirred mixture, under N2, of 23.0 g of 1,2-dihydro-6-phenylindolo[1,7-ab][1,5]benzodiazepine in 200 ml of absolute ethanol is cooled to 0°-5° C. Sodium borohydride is then added in small portions and at such a rate as to keep the reaction temperature less than 5° C., and to minimize foaming. About 3 g. are required to discharge the initial blue-purple color, and another 1 g. is added to insure complete reduction. The mixture is then stirred 1 hour at 0° C. and 1 hour at room temperature. Water is added, the product is filtered, washed repeatedly with water, and dried to give 6-phenyl-1,2,6,7-tetrahydroindolo[1,7-ab][1,5]benzodiazepine, m.p. 161°-164° C.

reactant | 1,2-dihydro-6-phenylindolo[1,7-ab][1,5]benzodiazepine | 23.0 g | C1(=CC=CC=C1)C=1C2=C3N(C4=C(N1)C=CC=C4)CCC3=CC=C2 | C21H16N2
reactant | Sodium borohydride | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 6-phenyl-1,2,6,7-tetrahydroindolo[1,7-ab][1,5]benzodiazepine | C1(=CC=CC=C1)C1C2=C3N(C4=C(N1)C=CC=C4)CCC3=CC=C2 | C21H18N2
